US07238724B2
4-Amino-3,4,5,6-tetrahydro-2H-(1,3′)bipyridinyl-5′-carbonitrile
To a stirred solution of (5′-cyano-3,4,5,6-tetrahydro-2H-(1,3′)bipyridinyl-4-yl)-carbamic acid tert-butyl ester (0.45 g, 1.49 mmol ) in dioxane (3.0 mL) at room temperature was added 4M HCl in dioxane (8 mL). The reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was treated with ether. The solid obtained by filtration provided the titled compound. MS (CI) m/z 203 (M+1)+; 1H NMR (300 MHz, methanol-d4) δ ppm 8.68 (d, 1H), 8.52 (s, 1H), 8.35 (m, 1H), 4.15-4.10 (m, 2H), 3.51-3.40 (m, 1H), 3.12 (t, 2H), 2.20-2.15 (m, 2H), 1.82-1.69 (m, 2H).

reactant | (5′-cyano-3,4,5,6-tetrahydro-2H-(1,3′)bipyridinyl-4-yl)-carbamic acid tert-butyl ester | 1.49 mmol, 0.45 g | C(C)(C)(C)OC(NC1CCN(CC1)C=1C=NC=C(C1)C#N)=O | C16H22N4O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-Amino-3,4,5,6-tetrahydro-2H-(1,3′)bipyridinyl-5′-carbonitrile | NC1CCN(CC1)C=1C=NC=C(C1)C#N | C11H14N4
